US09169272B2
(5-(mercaptomethyl)-1,3-phenylene)dimethanol (0.163 g, 0.885 mmol) was dissolved in methanol (3 mL) in a small vial and a stir bar was added. To this solution was added triethylamine (0.016 mL, 0.118 mmol) followed by 2,2-dimethylthiirane (0.058 mL, 0.590 mmol) and the resulting mixture was capped and stirred overnight (16 hrs) at room temperature. The reaction was then concentrated, redissolved in dichloromethane, loaded onto a silica ptlc plate (1000 micron) and the plate was developed using 10% methanol in dichloromethane. The band corresponding to the product was scraped, filtered with neat ethyl acetate, and concentrated to give (5-((2-mercapto-2-methylpropylthio)methyl)-1,3-phenylene)dimethanol (0.095 g, 0.349 mmol, 59.1% yield). 1H NMR (400 Hz, CDCl3): δ 7.26 (s, 3H), 4.69 (s, 4H), 3.82 (s, 2H), 2.74 (s, 2H), 2.17 (s, 1H), 2.12 (br s, 2H), 1.43 (s, 6H); 13C NMR (400 Hz, CDCl3): δ 141.6, 138.9, 126.7, 124.3, 65.0, 49.0, 45.4, 38.4, 31.5; MS (m/z), expected: 272.4, found 295.0 (M+Na). See FIG. 30.

reactant | (5-(mercaptomethyl)-1,3-phenylene)dimethanol | 0.885 mmol, 0.163 g | SCC=1C=C(C=C(C1)CO)CO | C9H12O2S
reactant | triethylamine | 0.118 mmol, 0.016 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylthiirane | 0.590 mmol, 0.058 mL | CC1(SC1)C | C4H8S
solvent | methanol | 3 mL | CO | CH4O
product | (5-((2-mercapto-2-methylpropylthio)methyl)-1,3-phenylene)dimethanol | 0.349 mmol, 0.095 g, 59.1% yield | SC(CSCC=1C=C(C=C(C1)CO)CO)(C)C | C13H20O2S2
